US07985751B2
To a solution of 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine (0.829 g, 2.25 mmol) in dichloromethane (DCM, 20 mL) is added boron tribromide (BBr3) drop wise at −78° C. under nitrogen. After the addition had been completed, the reaction solution is slowly warmed to 0° C., stirred for 5 h and then cooled to −10° C. To the cooled reaction mixture is added water cautiously. The resulting mixture is neutralised with sodium bicarbonate at ambient temperature and extracted with ethyl acetate/THF. The organic layer is separated, filtered through silica gel, dried over sodium sulfate, concentrated, and dried in a vacuum oven. The residue is then purified by column chromatography eluting with dichloromethane-methanol to afford 0.57 g of 1-[2-(3,4-dihydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine. This material is then dissolved in ethanol and treated with 6 N hydrogen chloride aqueous solution to pH=3. The resultant crystals are filtered, washed with cold ethanol, and dried to give 212 mg of the title compound (25% from 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride).

reactant | 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine | 2.25 mmol, 0.829 g | COC=1C=C(C=CC1OC)CCN1CCN(CC1)CCCC1=CC=CC=C1 | C23H32N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[2-(3,4-dihydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine | 0.57 g | OC=1C=C(C=CC1O)CCN1CCN(CC1)CCCC1=CC=CC=C1 | C21H28N2O2
